US08492549B2
[1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidin-3-yl]methanol
To a suspension of LiAlH4 (0.11 g, 2.78 mmol) in dry THF (1 ml) was added 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidine-3-carboxylic acid ethyl ester (0.17 g, 0.55 mmol) in dry THF (10 ml). The reaction mixture was refluxed for 2 h. Water was slowly added under cooling and the reaction mixture was extracted with EtOAc (3×20 ml). The combined organic phases were dried (Na2SO4), filtered and the filtrate was evaporated to give the title compound.

reactant | LiAlH4 | 2.78 mmol, 0.11 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidine-3-carboxylic acid ethyl ester | 0.55 mmol, 0.17 g | C(C)OC(=O)C1CN(CCC1)CC1COC2=C(O1)C=CC=C2 | C17H23NO4
reactant | Water | O | H2O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | [1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidin-3-yl]methanol | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)CO | C15H21NO3
